US07566727B2
5-Bromo-2-bromomethyl-benzoic acid methyl ester
5-Bromo-2-methyl-benzoic acid methyl ester (1.31 g, 5.72 mmol) was dissolved in carbon tetrachloride (40 mL). Benzoyl peroxide (10-20 mg) and NBS (1.01 g, 5.72 mmol) were added and the reaction mixture was heated to reflux at 100° C. The reaction course was followed by HPLC and determined to be complete after 1.25 hours. Silica gel was added and the solvent was removed under reduced pressure. The material was purified on silica gel using 5% ethyl acetate in hexanes as the eluent and was determined to be 85% pure by NMR (contained 10% starting material and 5% 5-bromo-2,2-dibromomethyl-benzoic acid methyl ester) and then used without further purification. 1H NMR (300.132 MHz, CDCl3) δ 8.10 (d, J=2.2 Hz, 1H), 7.62 (dd, J=8.3, 2.1 Hz, 1H), 7.34 (d, J=8.5 Hz, 1H), 4.90 (s, 2H), 4.90 (s, 3H).

reactant | 5-Bromo-2-methyl-benzoic acid methyl ester | 5.72 mmol, 1.31 g | COC(C1=C(C=CC(=C1)Br)C)=O | C9H9BrO2
reactant | Benzoyl peroxide | 10-20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 5.72 mmol, 1.01 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-2-bromomethyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)Br)CBr)=O | C9H8Br2O2
